US07910592B2
To a solution of 2-benzyl 5-methyl 6-iodo-1,3-dihydro-2H-isoindole-2,5-dicarboxylate (104 mg, 0.238 mmol) in THF (5 mL) at −78° C. under N2, was added dropwise 1N Super Hydride in THF (476 uL, 0.476 mmol). The mixture was stirred at −78° C. for 2 h. The reaction mixture was quenched with 1N HCl. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel to provide benzyl 5-(hydroxymethyl)-6-iodo-1,3-dihydro-2H-isoindole-2-carboxylate. LCMS calc.=432.0; found=431.9 (M+Na)+. 1H NMR (500 MHz, CDCl3): δ 7.76-7.70 (2 s, 1H); 7.45-7.35 (m, 6H); 5.24 (s, 2H); 4.76-4.67 (m, 4H); 2.18 (br s, 1H).

reactant | 2-benzyl 5-methyl 6-iodo-1,3-dihydro-2H-isoindole-2,5-dicarboxylate | 0.238 mmol, 104 mg | IC1=C(C=C2CN(CC2=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C18H16INO4
reactant | Super Hydride | 1N | [Li+].[B-](CC)(CC)CC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.476 mmol, 476 uL | C1CCOC1 | C4H8O
product | benzyl 5-(hydroxymethyl)-6-iodo-1,3-dihydro-2H-isoindole-2-carboxylate | OCC=1C=C2CN(CC2=CC1I)C(=O)OCC1=CC=CC=C1 | C17H16INO3
